US08106077B2
1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanone
To a 0° C. suspension of 4′-hydroxy-2′-methylacetophenone (969 mg, 6.45 mmol), [3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol (1.85 g, 6.45 mmol), tri-n-butylphosphine (2.42 ml, 9.73 mmol) in toluene (20 mL) is added ADDP (2.46 g, 9.73 mmol). The reaction mixture is warmed to room temperature and stirred overnight. The reaction mixture is concentrated and the residue is chromatographed eluting with 0% to 30% EtOAc/Hex to yield the title compound (1.71 mg, 63%). 1H NMR (400 MHz, CDCl3) δ 7.75 (dd, 1H, J=8.5, 2.1 Hz), 7.72 (d, 1H, J=1.3 Hz), 7.49 (d, 1H, J=2.2 Hz), 7.47 (s, 1H), 7.41 (dd, 1H, J=9.2, 6.6 Hz), 6.78 (d, 1H, J=8.4 Hz), 4.99 (s, 2H), 3.22 (sept, 1H, J=7.0 Hz), 2.52 (s, 3H), 2.06 (s, 3H), 1.46 (d, 6H, J=7.0 Hz).

reactant | 4′-hydroxy-2′-methylacetophenone | 6.45 mmol, 969 mg | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | [3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol | 6.45 mmol, 1.85 g | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(C)C | C12H13Cl2N3O
reactant | tri-n-butylphosphine | 9.73 mmol, 2.42 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 9.73 mmol, 2.46 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanone | 1.71 mg, 63% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C(C)=O)C)C(C)C | C21H21Cl2N3O2
